US03954769
12 G. of 2,10-dichloro-10,11-dihydro-7-methyl-dibenzo[b,f]-thiepin and 12.4 g. of N-methylpiperazine are dissolved in 310 ml. of chloroform and the solution heated at reflux for 16 hours. The cooled solution is washed with 2N sodium hydroxide and water. The organic phase is decanted and extracted with a dilute methanesulfonic acid solution. The acid solution is made alkaline earth sodium hydroxide and the oil that separates is taken up in ether. The organic phase is washed with water, dried over magnesium sulfate and concentrated under vacuum, and there is obtained 1-(2-chloro-10,11-dihydro-7-methyl-dibenzo-[b,f]thiepin-10-yl)-4-methylpiperazine which melts at 136°-137.5°C. This base is converted into the dimethanesulfonate by reaction with methanesulfonic acid.

reactant | 2,10-dichloro-10,11-dihydro-7-methyl-dibenzo[b,f]-thiepin | ClC1=CC2=C(SC3=C(C(C2)Cl)C=CC(=C3)C)C=C1 | C15H12Cl2S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-chloro-10,11-dihydro-7-methyl-dibenzo-[b,f]thiepin-10-yl)-4-methylpiperazine | ClC1=CC2=C(SC3=C(C(C2)N2CCN(CC2)C)C=CC(=C3)C)C=C1 | C20H23ClN2S
